US08563565B2
(1) synthesis of ethyl 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
Ethyl 5-(4-bromo-2,5-difluorophenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (4.31 g), bis(pinacolato)diboron (3.27 g), potassium acetate (3.16 g), Pd(dppf)Cl2-DCM complex (439 mg) were added to DMF (41.6 mL), and the reaction mixture was stirred at 95° C. in a nitrogen atmosphere. After stirring the reaction mixture for about 2 hours, the reaction mixture was stirred at 105° C. for about 4 hours. The reaction mixture was cooled to room temperature and then filtered through Celite™. The filtrate was concentrated under reduced pressure, and after brine and ethyl acetate were added to the residue the solution was stirred at room temperature for 5 minutes. The reaction mixture was again filtered through Celite™, and the filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtrated through Celite™. The filtrate was concentrated, and the residue was purified by silica gel chromatography (heptane/ethyl acetate, 20% to 30% to 80%) to give ethyl 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (2.95 g). Eethyl 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (812 mg), 3-bromo-2-methoxy-4,6-dimethylpyridine (490 mg), Pd(PPh3)4 (130 mg) and cesium carbonate (1.77 g) were added to a mixed solvent of 1,4-dioxane (9.00 mL) and water (3.00 mL), and the reaction mixture was heated under reflux for 4 hours. The reaction mixture was cooled to room temperature and partitioned by adding ethyl acetate and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated, and the residue was purified by NH silica gel column chromatography (ethyl acetate/n-heptane, 11% to 30% to 50%) to give the title compound (397 mg). The title compound was used for the next reaction without further purification.

reactant | 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 812 mg | FC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)[O-]
reactant | 3-bromo-2-methoxy-4,6-dimethylpyridine | 490 mg | BrC=1C(=NC(=CC1C)C)OC | C8H10BrNO
reactant | cesium carbonate | 1.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 9.00 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3.00 mL | O | H2O
product | ethyl 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 397 mg | FC1=C(C=C(C(=C1)C=1C(=NC(=CC1C)C)OC)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C24H25F2N3O4
